* SPICE netlist
M1 net4 Vin1 net6 net6 NMOS
M2 net4 Vin2 net2 net2 NMOS
M3 net4 Vb1 net4 net4 PMOS
M4 net2 Vb1 net2 net2 PMOS
M5 Vout net2 net5 net5 NMOS
M6 net2 Vb3 net2 net2 NMOS
M7 net3 Vb2 net4 net4 PMOS

RD1 VDD Vout 5k
RD2 VDD Vout 5k

VDD VDD 0 DC 5V
Vb1 Vb1 0 DC 1V
Vb2 Vb2 0 DC 1V
Vb3 Vb3 0 DC 1V
Vin1 Vin1 0 DC 1V
Vin2 Vin2 0 DC 1V

* End of netlist